US08138189B2
Step 3: 2-(2-Chloro-5-methoxy-phenyl)-propionaldehyde
2-Chloro-5-methoxy-benzeneacetic acid methyl ester (850 mg) was dissolved in toluene (40 mL) and cooled to −78° C. Diisobutylaluminium hydride (20% in toluene, 3.69 mL) was added over a period of 15 minutes. Stirring was continued for 45 minutes at −78° C. Methanol (2 mL) was added followed by 1M potassium sodium tartrate solution (10 mL). The cooling bath was removed and the mixture was allowed to warm to r.t. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and evaporated. The title compound was obtained as a light yellow oil (710mg, 96%) and was used without further purification. 1H-NMR (δ, CDCl3): 9.72 (s, 1H), 7.34 (d, 1H), 6.79 (dd, 1H), 6.66 (d, 1H), 4.10 (q, 1H), 3.79 (s, 3H), 1.43 (d, 3H).

reactant | 2-Chloro-5-methoxy-benzeneacetic acid methyl ester | 850 mg | COC(CC1=C(C=CC(=C1)OC)Cl)=O | C10H11ClO3
reactant | Diisobutylaluminium hydride | 3.69 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Methanol | 2 mL | CO | CH4O
reactant | potassium sodium tartrate | 1M, 10 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloro-5-methoxy-phenyl)-propionaldehyde | ClC1=C(C=C(C=C1)OC)C(C=O)C | C10H11ClO2
